US08466122B2
A 100 mL round bottom flask charged with magnesium turnings (250 mg) and a stir bar was dried with a heat gun for 5 minutes then cooled under nitrogen. The flask was charged with dry THF (10 mL) and a small grain of iodine. A solution of linoleyl bromide (3 g, 9.1 mmol) in diethyl ether was added slowly and the mixture was stirred at room temperature. The Grignard did not initiate so the solution was concentrated to ˜5 mL then stirred for 2 minutes until the solution turned opaque and the iodine color disappeared. After 20 minutes, a colorless solid precipitated so the reaction was diluted with THF (15 mL) and stirred overnight. The next day 3-((9Z,12Z)-octadeca-9,12-dienyloxy)dihydrofuran-2(3H)-one (1.3 g, 3.6 mmol) was added and the solution was stirred for 3 hours. The reaction was diluted with ether (100 mL) and washed with 5% HCl (50 mL). The ether layer was dried on magnesium sulfate, filtered and concentrated in vacuo to dryness. The residue was purified by column chromatography on silica gel 60 (eluted with 10% ether in hexanes) to afford (14Z,17Z)-4-((9Z,12Z)-octadeca-9,12-dienyl)-3-((9Z,12Z)-octadeca-9,12-dienyloxy)tricosa-14,17-diene-1,4-diol as a colorless oil (1.75 g, 56%).

reactant | magnesium | 250 mg | [Mg] | Mg
reactant | linoleyl bromide | 9.1 mmol, 3 g | C(CCCCCCC\C=C/C\C=C/CCCCC)Br | C18H33Br
reactant | 3-((9Z,12Z)-octadeca-9,12-dienyloxy)dihydrofuran-2(3H)-one | 3.6 mmol, 1.3 g | C(CCCCCCC\C=C/C\C=C/CCCCC)OC1C(OCC1)=O | C22H38O3
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | ether | 100 mL | CCOCC | C4H10O
product | (14Z,17Z)-4-((9Z,12Z)-octadeca-9,12-dienyl)-3-((9Z,12Z)-octadeca-9,12-dienyloxy)tricosa-14,17-diene-1,4-diol | 1.75 g, 56% | C(CCCCCCC\C=C/C\C=C/CCCCC)C(C(CCO)OCCCCCCCC\C=C/C\C=C/CCCCC)(CCCCCCCCC\C=C/C\C=C/CCCCC)O | C59H108O3
